US05047492
(a) Synthesis of tetraethylammonium silicate
About 412 g (400 ml) of 40 percent aqueous tetraethylammonium hydroxide solution (Fluka, D-710 Neu-Ulm) were diluted with 200 ml of water, and then 225 g (240.6 ml= 1.08 mol of Si) of tetraethoxysilane were slowly added. The mixture was then stirred at room temperature for 24 hours. It was then concentrated by distillation to 45.2 percent of the original weight and the solution was crystallized at 4° C.

reactant | tetraethylammonium hydroxide | 400 ml, 412 g | [OH-].C(C)[N+](CC)(CC)CC
reactant | tetraethoxysilane | 1.08 mol, 240.6 ml, 225 g | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
solvent | water | 200 ml | O | H2O
product | tetraethylammonium silicate | [Si]([O-])([O-])([O-])[O-].C(C)[N+](CC)(CC)CC.C(C)[N+](CC)(CC)CC.C(C)[N+](CC)(CC)CC.C(C)[N+](CC)(CC)CC | InChI=1S/4C8H20N.O4Si/c4*1-5-9(6-2,7-3)8-4;1-5(2,3)4/h4*5-8H2,1-4H3;/q4*+1;-4
